US07101891B2
2-[3-(9-Chloro-3-methyl-4-oxo-5H-isoxazolo[4,3-c]quinolin-5-yl)-piperidin-1-yl]-N-pyridin-3-yl-acetamide
To a dry roundbottom flask add [3-(9-Chloro-3-methyl-4-oxo-5H-isoxazolo[4,3-c]quinolin-5-yl)-piperidin-1-yl]-acetic acid (50 mg, 0.11 mmol), 3-amino-pyridine (16 mg, 0.17 mmol), 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (33 mg, 0.17 mmol), 1-hydroxy-7-azabenzotriazole (23 mg, 0.17 mmol), 4-dimethylamino-pyridine (2 mg, 0.01 mmol), and dimethylformamide (3 mL). Stir the reaction under nitrogen, and add triethylamine (30 μL, 0.22 mmol) dropwise. Stir the solution under nitrogen at room temperature overnight. Concentrate the mixture, partition between 20% isopropanol/chloroform and water, and separate. Wash the organic layer with saturated aqueous sodium bicarbonate solution, brine, dry over magnesium sulfate and concentrate. Purify by flash chromatography on silica gel (eluting with 0–0.5% methanol/chloroform) to give 19.8 mg of the title compound as an orange solid, 33% yield. 1H NMR: consistent with structure. MS (ion spray) 452 (M+).

reactant | [3-(9-Chloro-3-methyl-4-oxo-5H-isoxazolo[4,3-c]quinolin-5-yl)-piperidin-1-yl]-acetic acid | 0.11 mmol, 50 mg | ClC=1C=2C=3C(C(N(C2C=CC1)C1CN(CCC1)CC(=O)O)=O)=C(ON3)C | C18H18ClN3O4
reactant | 3-amino-pyridine | 0.17 mmol, 16 mg | NC=1C=NC=CC1 | C5H6N2
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 0.17 mmol, 33 mg | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxy-7-azabenzotriazole | 0.17 mmol, 23 mg | ON1N=NC2=C1N=CC=C2 | C5H4N4O
reactant | triethylamine | 0.22 mmol, 30 μL | C(C)N(CC)CC | C6H15N
catalyst | 4-dimethylamino-pyridine | 0.01 mmol, 2 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
product | 2-[3-(9-Chloro-3-methyl-4-oxo-5H-isoxazolo[4,3-c]quinolin-5-yl)-piperidin-1-yl]-N-pyridin-3-yl-acetamide | 19.8 mg, 33% yield | ClC=1C=2C=3C(C(N(C2C=CC1)C1CN(CCC1)CC(=O)NC=1C=NC=CC1)=O)=C(ON3)C | C23H22ClN5O3
